US07465726B2
To a stirred solution of 4-chloro-7-(phenylsulfonyl)-7H-pyrrolo[2,3-d]-pyrimidine (5.0 g, 0.017 mol) in THF (200 mL) under inert atmosphere, at −78° C., was added 2.0 M LDA solution (9.8 mL, 0.0195 mol) over a period of 15 min. After 1 h a solution of iodine (4.97 g, 0.0196 mol) in THF (50 mL) was added dropwise over a period of 15 min. The resulting solution was stirred for a further 3 h. Water (10 mL) was then added and the mixture allowed to reach r.t. The mixture was diluted with DCM (1 l), washed with brine (2×100 mL), dried and concentrated under reduced pressure. The resulting solid was triturated with MeCN to afford the 4-chloro-6-iodo-7-(phenylsulfonyl)-7H-pyrrolo[2,3-d]pyrimidine. 1H NMR (CDCl3, 400 MHz) 7.05 (1H, s), 7.50 (2H, t), 7.60 (1H, t), 8.20 (2H, d) and 8.65 (1H, br s).

reactant | 4-chloro-7-(phenylsulfonyl)-7H-pyrrolo[2,3-d]-pyrimidine | 0.017 mol, 5.0 g | ClC=1C2=C(N=CN1)N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C12H8ClN3O2S
reactant | LDA | 0.0195 mol, 2.0 M, 9.8 mL | [Li+].CC(C)[N-]C(C)C
reactant | iodine | 0.0196 mol, 4.97 g | II | I2
reactant | Water | 10 mL | O | H2O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | DCM | 1 l | C(Cl)Cl | CH2Cl2
product | 4-chloro-6-iodo-7-(phenylsulfonyl)-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)N(C(=C2)I)S(=O)(=O)C2=CC=CC=C2 | C12H7ClIN3O2S
